US05268389
1-Methylethyl 2-chloro-5-[[1-methylethoxycarbonyl]amino]benzoate (Compound 29)
1-Methylethyl 2-chloro-5-isocyanatobenzoate (3 g, 0.013 mole) in tetrahydrofuran (5 ml) was added to isopropyl alcohol (5 ml) in tetrahydrofuran (5 ml). A few drops of triethylamine were added and the reaction mixture left at ambient temperature overnight. Removal of the solvent and crystallization from isopropyl alcohol gave the title compound, m.p. 108°-109° C. (2.7 g).

reactant | 1-Methylethyl 2-chloro-5-isocyanatobenzoate | 0.013 mole, 3 g | ClC1=C(C(=O)OC(C)C)C=C(C=C1)N=C=O | C11H10ClNO3
reactant | isopropyl alcohol | 5 ml | C(C)(C)O | C3H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
catalyst | triethylamine | A few drops | C(C)N(CC)CC | C6H15N
product | 1-Methylethyl 2-chloro-5-[[1-methylethoxycarbonyl]amino]benzoate | ClC1=C(C(=O)OC(C)C)C=C(C=C1)NC(=O)OC(C)C | C14H18ClNO4
